### PR TITLE
Add refillUnblockCheck_corres proof

### PR DESCRIPTION
**Pull request by mktnk3**
Adding refillUnblockCheck_corres proof to Schedule_R under
a slightly different name (with ‘), so that it will be available for 
making progress with schedule_corres.

* to be renamed later, when "add refill_unblock_check everywhere" spec
  change is finished, and the corres rule is integrated in proofs in
  the later theory files (this process will remove one sorry)

Also with some tweaks (weakening assumptions). It might help to review commit by commit.

### CODE REVIEW

**Review by michaelmcinerney — APPROVED** [review]

File: proof/refine/ARM/Schedule_R.thy [hunk 1]
```diff
@@ -3934,10 +3934,10 @@ lemma isRoundRobin_corres:
...
 lemma refillPopHead_corres:
   "corres (\<lambda>refill refill'. refill = refill_map refill')
-              (pspace_aligned and pspace_distinct and sc_at sc_ptr and is_active_sc sc_ptr
-               and sc_refills_sc_at (\<lambda>refills. 1 < length refills) sc_ptr)
-              (valid_refills' sc_ptr)
-              (refill_pop_head sc_ptr) (refillPopHead sc_ptr)"
+     (pspace_aligned and pspace_distinct and sc_at sc_ptr and is_active_sc sc_ptr
+      and sc_refills_sc_at (\<lambda>refills. 1 < length refills) sc_ptr)
+     (valid_refills' sc_ptr)
+        (refill_pop_head sc_ptr) (refillPopHead sc_ptr)"
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:3940]: nitpick: should this line be indented the same as the previous ones?

File: proof/refine/ARM/Schedule_R.thy [hunk 2]
```diff
@@ -3952,6 +3922,302 @@ lemma setNextInterrupt_corres:
...
+   refillPopHead scPtr
+   \<lbrace>\<lambda>_. valid_refills' scPtr'\<rbrace>"
+  apply (clarsimp simp: refillPopHead_def updateSchedContext_def setSchedContext_def)
+  apply (wpsimp wp: setObject_sc_wp)
+  apply (fastforce simp: valid_refills'_def obj_at'_def projectKOs opt_map_def refillNextIndex_def)
+  done
+
+lemma refillHeadOverlapping_simp:
+  "sc_at' sc_ptr s' \<Longrightarrow> refillHeadOverlapping sc_ptr s' =
+    (scs_of' s' ||> (\<lambda>sc'. Suc 0 < scRefillCount sc'
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:3991]: nitpick: my preference would be for something like 
```suggestion
  "sc_at' sc_ptr s' \<Longrightarrow>
    refillHeadOverlapping sc_ptr s' =
      (scs_of' s' ||> (\<lambda>sc'. Suc 0 < scRefillCount sc'
```

File: proof/refine/ARM/Schedule_R.thy [hunk 3]
```diff
@@ -3986,6 +3986,236 @@ lemma refillPopHead_valid_refills'[wp]:
...
+  for is_active_sc2[wp]: "is_active_sc2 scp"
+  (wp: crunch_wps ignore: update_sched_context
+   simp: crunch_simps update_refill_hd_rewrite update_sched_context_set_refills_rewrite)
+
+lemma merge_refills_scs_of2[wp]:
+  "\<lbrace>\<lambda>s. P (scs_of2 s(scp \<mapsto> (\<lambda>sc. sc_refills_update
+            (\<lambda>_. merge_refill (refill_hd sc) (hd (tl (sc_refills sc))) # tl (tl (sc_refills sc))) sc)
+                          (the (scs_of2 s scp)))) \<rbrace>
+   merge_refills scp
+   \<lbrace>\<lambda>_ s. P (scs_of2 s)\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:4052]: Out of curiosity, do you remember if there was a reason that this lemma was ok for `[wp]`, but the previous `refillPopHead_scs_of'` one wasn't?

File: proof/refine/ARM/Schedule_R.thy [hunk 4]
```diff
@@ -3986,6 +3986,236 @@ lemma refillPopHead_valid_refills'[wp]:
...
+
+lemma no_fail_mergeRefills[wp]:
+  "no_fail (sc_at' scp and (\<lambda>s'. ((\<lambda>sc'. 0 < scRefillCount sc') |< scs_of' s') scp)) (mergeRefills scp)"
+  unfolding mergeRefills_def updateRefillHd_def
+  apply (wpsimp simp: refillPopHead_def wp: updateSchedContext_wp)
+  by (clarsimp simp: objBits_simps)
+
+lemma refillPopHead_length_decreasing:
+  "\<lbrace>\<lambda>s'. ((\<lambda>sc. 0 < scRefillCount sc) |< scs_of' s') scp \<and> s' = s\<rbrace>
+    refillPopHead scp
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:4111]: nitpick: indentation here and in the next lemma

File: proof/refine/ARM/Schedule_R.thy [hunk 5]
```diff
@@ -3986,6 +3986,236 @@ lemma refillPopHead_valid_refills'[wp]:
...
+  apply (wpsimp simp: updateRefillHd_def refillPopHead_def wp: updateSchedContext_wp)
+  by (fastforce simp: valid_refills'_def obj_at_simps ps_clear_upd refillNextIndex_def opt_map_red)
+
+lemma no_fail_refillPopHead[wp]:
+  "no_fail (sc_at' scp and (\<lambda>s'. ((\<lambda>sc'. 0 < scRefillCount sc') |< scs_of' s') scp)) (refillPopHead scp)"
+  unfolding refillPopHead_def
+  by (wpsimp simp: obj_at_simps scBits_simps opt_map_red)
+
+lemma no_fail_mergeRefills[wp]:
+  "no_fail (sc_at' scp and (\<lambda>s'. ((\<lambda>sc'. 0 < scRefillCount sc') |< scs_of' s') scp)) (mergeRefills scp)"
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:4104]: It's not really worth changing, but I'm a bit curious whether `crunch` would solve this and generate the same precondition.
If you're also curious it would be
```
crunches mergeRefills
  for (no_fail) no_fail[wp]:
  (needed wp and simp rules)
```

File: proof/refine/ARM/Schedule_R.thy [hunk 6]
```diff
@@ -3952,6 +3922,302 @@ lemma setNextInterrupt_corres:
...
+   apply (fastforce simp: obj_at_simps opt_map_red)
+  apply (fastforce intro!: mergeRefills_terminates)
+  done
+
+lemma refillUnblockCheck_corres':
+  "corres dc
+     (sc_at scp and is_active_sc2 scp and pspace_aligned and pspace_distinct
+      and (\<lambda>s. ((\<lambda>sc. 0 < length (sc_refills sc)) |< scs_of2 s) scp))
+     (valid_refills' scp)
+        (refill_unblock_check scp) (refillUnblockCheck scp)"
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:4189]: We seem to be a bit inconsistent with how we indent the monadic functions in corres statements. My preference would be
```suggestion
  "corres dc
     (sc_at scp and is_active_sc2 scp and pspace_aligned and pspace_distinct
      and (\<lambda>s. ((\<lambda>sc. 0 < length (sc_refills sc)) |< scs_of2 s) scp))
     (valid_refills' scp)
     (refill_unblock_check scp) (refillUnblockCheck scp)"
```

**Review by corlewis — APPROVED** [review]
I should have mentioned this in one of your previous PRs, but thanks for breaking things into smaller commits and giving them helpful messages. It makes it a lot easier to review!

File: proof/refine/ARM/Schedule_R.thy (hunk 6 above)
Comment (mktnk3) [reply proof/refine/ARM/Schedule_R.thy:4189]: I seem to like having the functions not aligned with the preconditions, but no strong preference.

File: proof/refine/ARM/Schedule_R.thy (hunk 5 above)
Comment (mktnk3) [reply proof/refine/ARM/Schedule_R.thy:4105]: It does work and it told me that we don’t need the second (big) precondition, which was nice :)

File: proof/refine/ARM/Schedule_R.thy (hunk 3 above)
Comment (mktnk3) [reply proof/refine/ARM/Schedule_R.thy:4053]: No apparent reason, the previous one is now added to the wpset.
